US07741326B2
4-[2-Carbamoyl-1-(4-fluoro-benzyl)-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.0155 gm, 0.034 mmol) was dissolved in dichloromethane and 1-fluoro-2,4,6-trimethylpyridinium triflate (85%, 0.012 gm, 0.035 mmol) was added and the reaction mixture was stirred at room temperature overnight. The mixture was transferred onto two preparative thin layer chromatography plates and eluted with 1/1 ethyl acetate/hexane, then further purified on two analytical thin layer chromatography plates (1/1 ethyl acetate/hexane), and then additionally purified on two more analytical plates (35/65 ethyl acetate/hexane) to give 4-[2-carbamoyl-3-fluoro-1-(4-fluoro-benzyl)-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.009 gm, 56% yield).

reactant | 4-[2-Carbamoyl-1-(4-fluoro-benzyl)-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.034 mmol, 0.0155 gm | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=C(N(C2=CC=C1)CC1=CC=C(C=C1)F)C(N)=O | C25H29FN4O3
reactant | 1-fluoro-2,4,6-trimethylpyridinium triflate | 0.035 mmol, 0.012 gm | [O-]S(=O)(=O)C(F)(F)F.F[N+]1=C(C=C(C=C1C)C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-carbamoyl-3-fluoro-1-(4-fluoro-benzyl)-1H-indol-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.009 gm, 56% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=C(N(C2=CC=C1)CC1=CC=C(C=C1)F)C(N)=O)F | C25H28F2N4O3
